US05352684
F. 5-Acetyl-4-(2,3-dichlorophenyl)-1,4-dihydro-2,6-dimethyl-3-[5-(4,4-diphenyl -1-piperidinyl)pentanoyl]-pyridine hydrochloride
5 g (12 mmol) 5-acetyl-4-(2,3-dichlorophenyl)-1,4-dihydro-2,6-dimethyl-2,6-dimethyl-3-(5-chloropentanoyl)-pyridine are reacted first with 3.6 g (24 mmol) sodium iodide and then with 6.9 g (24 mmol) 4,4-diphenylpiperidine hydrochloride, as described for starting compound B. Working up is carried out as described for starting compound B. The crude product is chromatographed with toluene/acetone=7/3. The product thus obtained is taken up in 20 ml isopropanol and the mixture is diluted with 5 ml diethyl ether. The title compound is precipitated by addition of ethereal hydrochloric acid. Yield: 2.3 g (30%). M.p. 258°-259° C. decomp. (acetonitrile).

reactant | 5-acetyl-4-(2,3-dichlorophenyl)-1,4-dihydro-2,6-dimethyl-2,6-dimethyl-3-(5-chloropentanoyl)-pyridine | 12 mmol, 5 g | C(C)(=O)C1C(C(C(NC1(C)C)(C)C)C(CCCCCl)=O)C1=C(C(=CC=C1)Cl)Cl | C22H30Cl3NO2
reactant | sodium iodide | 24 mmol, 3.6 g | [I-].[Na+]
reactant | 4,4-diphenylpiperidine hydrochloride | 24 mmol, 6.9 g | Cl.C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 5-Acetyl-4-(2,3-dichlorophenyl)-1,4-dihydro-2,6-dimethyl-3-[5-(4,4-diphenyl -1-piperidinyl)pentanoyl]-pyridine hydrochloride | Cl.C(C)(=O)C=1C(C(=C(NC1C)C)C(CCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C1=C(C(=CC=C1)Cl)Cl | InChI=1S/C37H40Cl2N2O2.ClH/c1-25-33(27(3)42)35(30-17-12-18-31(38)36(30)39)34(26(2)40-25)32(43)19-10-11-22-41-23-20-37(21-24-41,28-13-6-4-7-14-28)29-15-8-5-9-16-29;/h4-9,12-18,35,40H,10-11,19-24H2,1-3H3;1H
